US07101903B2
9-Benzyl-6-(3-methylphenyl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione
The title compound was prepared from [1-benzyl-5-bromo-2-(hydroxymethyl)-1H-indol-3-yl](oxo)acetic acid, potassium salt and m-tolylboronic acid in substantially the same manner, as described in step 4 of Example 9. The product was obtained as a grey solid, mp: 225–226° C.; Mass spectrum (ESI, [M+H]+) m/z 382. 1H NMR (400 MHz, DMSO-d6) δ 8.22 (s, 1H), 7.22 (d, 1H, J=8.40 Hz), 7.65 (dd, 1H, J=8.45 and 1.83 Hz), 7.49 (s, 1H), 7.47–7.34 (m, 3H), 7.31 (d, 1H, J=7.33 Hz), 7.27 (d, 2H, J=8.40 Hz), 7.18 (d, 1H, J=7.48 Hz), 5.92 (s, 2H), 5.55 (s, 2H), and 2.39 ppm (s, 3H).

reactant | [1-benzyl-5-bromo-2-(hydroxymethyl)-1H-indol-3-yl](oxo)acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)C(C(=O)O)=O)CO | C18H14BrNO4
reactant | potassium | [K] | K
reactant | m-tolylboronic acid | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | 9-Benzyl-6-(3-methylphenyl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione | C(C1=CC=CC=C1)N1C2=C(C3=CC(=CC=C13)C1=CC(=CC=C1)C)C(C(OC2)=O)=O | C25H19NO3
